US06858651B2
In analogy to examples 29.10 and 29.11, trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester.trifluoroacetic acid salt and 4-chlorophenyl chloroformate were reacted, followed by treatment with piperidine to give trans-Methyl-[4-(5-piperidin-1-yl-pentyl)-cyclohexyl]-carbamic acid 4-chloro-phenyl ester, MS: 421 (MH+, 1Cl).

reactant | trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester | CN[C@@H]1CC[C@H](CC1)CCCCCOS(=O)(=O)C | C13H27NO3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-chlorophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | trans-Methyl-[4-(5-piperidin-1-yl-pentyl)-cyclohexyl]-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N([C@@H]1CC[C@H](CC1)CCCCCN1CCCCC1)C)=O | C24H37ClN2O2
